US07598391B2
1-(1-Cyclopentanecarbonyl-piperidin-4-yl)-3-[5-(4-ethanesulfonyl-piperazin-1-ylmethyl)thiazol-2-yl]-1-(4-methyl-cyclohexyl)-urea
Prepared as described in general procedure (N) using 3-[5-(4-ethanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1-(4-methyl-cyclohexyl)-1-piperidin-4-yl-urea hydrochloride (48 mg, 0.078 mmol), TEA (24 μL, 0.17 mmol) and cyclopentane carbonylchloride (11 μL, 0.086 mmol) and to afford 19 mg (40%) of the desired product after purification.

reactant | 3-[5-(4-ethanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1-(4-methyl-cyclohexyl)-1-piperidin-4-yl-urea hydrochloride | 0.078 mmol, 48 mg | Cl.C(C)S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(N(C1CCNCC1)C1CCC(CC1)C)=O
reactant | cyclopentane carbonylchloride | 0.086 mmol, 11 μL | C1(CCCC1)C(=O)Cl | C6H9ClO
product | 1-(1-Cyclopentanecarbonyl-piperidin-4-yl)-3-[5-(4-ethanesulfonyl-piperazin-1-ylmethyl)thiazol-2-yl]-1-(4-methyl-cyclohexyl)-urea | 19 mg, 40% | C1(CCCC1)C(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(=O)(=O)CC)C1CCC(CC1)C | C29H48N6O4S2
